US08022062B2
Use a method similar to the General Procedure 5-2 to couple 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (96 mg, 0.225 mmol) with 4-(3,3-dimethyl-butyryl)-3-fluoro-benzylamine (105 mg, 0.45 mmol) by using tris(dibenzylideneacetone)dipalladium(0) (41 mg, 0.045 mmol), BINAP (56 mg, 0.09 mmol) and cesium carbonate (103 mg, 0.315 mmol) in anhydrous toluene (15 mL). Purify by chromatography on silica gel eluting with hexane/EtOAc (9:1) to give 7-chloro-6-[4-(3,3-dimethyl-butyryl)-3-fluoro-benzylamino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as a yellow oil (54 mg, 49%). MS (ES+) m/z: 499 (M+H)+.

reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.225 mmol, 96 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | 4-(3,3-dimethyl-butyryl)-3-fluoro-benzylamine | 0.45 mmol, 105 mg | CC(CC(=O)C1=C(C=C(CN)C=C1)F)(C)C | C13H18FNO
reactant | BINAP | 0.09 mmol, 56 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | 0.315 mmol, 103 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.045 mmol, 41 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 7-chloro-6-[4-(3,3-dimethyl-butyryl)-3-fluoro-benzylamino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 54 mg, 49% | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)NCC1=CC(=C(C=C1)C(CC(C)(C)C)=O)F | C25H27ClF4N2O2
